US06992083B2
N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-propionamide
From propionic acid, HATU and N-diethylisopropylamine in THF, then treatment with 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-ylamine in dioxane and DMF. ES-MS m/e (%): 315 (M+H+, 100).

reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-ylamine | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)N)OC | C14H11FN2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-propionamide | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)NC(CC)=O)OC | C17H15FN2O3
